US07608633B2
B. 1-[3-(4-Heptyloxyphenoxy)-2-hydroxypropyl]indole-5-carbonitrile
0.13 g (2.47 mmol) sodium hydride as 60% dispersion in mineral oil is suspended in 10 ml absolute DMF under nitrogen, stirred at room temperature for 10 min and mixed with the solution of 0.5 g (2.39 mmol) 4-heptyloxyphenol in 5 ml absolute DMF. Having stirred for 1 hour, a solution of 475 mg (2.39 mmol) 1-oxiranylmethylindole-5-carbonitrile in 5 ml absolute DMF is added and stirring is continued at room temperature overnight. Thereafter, the suspension is hydrolyzed with semi-saturated NaCl solution and extracted three times with ethyl acetate. The extracts are washed with saturated NaCl solution, dried on sodium sulfate and the solvent is distilled off. The residue is purified on silica gel by means of column chromatography (flow agent: hexane/ethyl acetate 1:1), the product accruing as an oil.

reactant | sodium hydride | 2.47 mmol, 0.13 g | [H-].[Na+]
reactant | 4-heptyloxyphenol | 2.39 mmol, 0.5 g | C(CCCCCC)OC1=CC=C(C=C1)O | C13H20O2
reactant | 1-oxiranylmethylindole-5-carbonitrile | 2.39 mmol, 475 mg | O1C(C1)CN1C=CC2=CC(=CC=C12)C#N | C12H10N2O
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[3-(4-Heptyloxyphenoxy)-2-hydroxypropyl]indole-5-carbonitrile | C(CCCCCC)OC1=CC=C(OCC(CN2C=CC3=CC(=CC=C23)C#N)O)C=C1 | C25H30N2O3
